US04188489
3-Anilino-1-(p-sulfophenyl)-5-pyrazolone
Into 1.5 l of ethanol were dispersed 118 g of ethylβ-anilino-β-ethoxy acrylate and 94 g of p-sulfophenylhydrazine, and 150 g of triethylamine and glacial acetic acid were successively dropped thereinto while heating (95°-100° C.) and stirring. After heating (95°-100° C.) and stirring for 5 hours, the reaction solution was concentrated under reduced pressure. To the residue so concentrated were added 50 ml of water and 120 ml of ethanol containing 35% by wt. hydrogen chloride to provide a uniform solution. This uniform solution was allowed to stand in a refrigerator for one day and one night. The crystals of the objective compound which precipitated had a melting point of 290° to 291° C. and weighed 145 g.

reactant | ethanol | 1.5 l | C(C)O | C2H6O
reactant | ethylβ-anilino-β-ethoxy acrylate | 118 g | C(C=C)(=O)OOC(C)(NC1=CC=CC=C1)CC | C13H17NO3
reactant | p-sulfophenylhydrazine | 94 g | S(=O)(=O)(O)C1=CC=C(C=C1)NN | C6H8N2O3S
reactant | triethylamine | 150 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Anilino-1-(p-sulfophenyl)-5-pyrazolone | N(C1=CC=CC=C1)C=1NN(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)O | C15H13N3O4S
